US06391915B2
Under nitrogen, to the slurry of lithium aluminum hydride (11.4 g) in tetrahydrofuran (200 ml) was added 6-methoxy-1-(trimethylsilanyloxy)-1,2,3,4-tetrahydronaphthalene-1-carbonitrile (41.3 g) in tetrahydrofuran (200 ml) dropwise at 5° C., and the mixture was stirred at the same temperature for 1 hour and at room temperature for 2 hours. To the mixture were added sodium fluoride (12.6 g) and water (16.2 ml) at 5° C., and the mixture was vigorously stirred at room temperature for 30 minutes. The precipitate was removed by filtration and the filter cake was washed with ethyl acetate-ethanol (95:5). The filtrate was evaporated in vacuo to afford 1-aminomethyl-5-methoxy-1,2,3,4-tetrahydronaphthalen-1-ol (28.6 g).

reactant | lithium aluminum hydride | 11.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-methoxy-1-(trimethylsilanyloxy)-1,2,3,4-tetrahydronaphthalene-1-carbonitrile | 41.3 g | COC=1C=C2CCCC(C2=CC1)(C#N)O[Si](C)(C)C | C15H21NO2Si
reactant | sodium fluoride | 12.6 g | [F-].[Na+]
reactant | water | 16.2 ml | O | H2O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-aminomethyl-5-methoxy-1,2,3,4-tetrahydronaphthalen-1-ol | 28.6 g | NCC1(CCCC2=C(C=CC=C12)OC)O | C12H17NO2
